US07399759B2
Methyl thiosalicylate (3.6 g, 21.6 mmol) and 2-chloro-4-cyanopyridine (3.0 g, 21.7 mmol) were dissolved in toluene (5.0 ml), and triethylamine (4.5 ml, 32.3 mmol) was added thereto. The reaction mixture was refluxed for 22 hrs. The reaction mixture was subjected to a silica gel (120 g) column chromatography, eluted with hexane-ethyl acetate (1:2, v/v) and recrystallized from acetone-ethyl acetate to give 2-(2-chloro-4-pyridyl)-4H-1,3-benzothiazine-4-one (0.47 g, 8.0%) as white crystals.

reactant | Methyl thiosalicylate | 21.6 mmol, 3.6 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-chloro-4-cyanopyridine | 21.7 mmol, 3.0 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | triethylamine | 32.3 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-chloro-4-pyridyl)-4H-1,3-benzothiazine-4-one | 0.47 g, 8.0% | ClC1=NC=CC(=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C13H7ClN2OS
